US07482448B2
To a mixture of Sodium bicarbonate (5.25 g), p-nitro chloroformate (5.03 g, 25 mmol) in acetonitrile (130 mL) under nitrogen is added (S)-2-Amino-4,4-difluoro-heptanoic acid methyl ester hydrochloride (5.79 g, 0.025 mol) and stirred at room temperature for 5 hr. Homomorpholine hydrochloride (3.61 g, 26.25 mmol) and triethyl amine (12.5 mL) are added and the reaction stirred overnight at room temperature. Solvent evaporated off under reduced pressure, crude partitioned between water (150 mL) and ethyl acetate (200 mL). Organic layer separated, washed with K2CO3 solution (150 mL), HCl (150 mL) and brine (150 mL). Organic layer separated, dried (MgSO4) and evaporated under reduced pressure. Crude purified by column chromatography eluting with v/v 1:1 to 8:2 ethyl acetate heptane followed by ethyl acetate to give (S)-4,4-Difluoro-2-[(perhydro-1,4-oxazepine4-carbonyl)-amino]-heptanoic acid methyl ester (4.8 g) as an oil.

reactant | Sodium bicarbonate | 5.25 g | C([O-])(O)=O.[Na+]
reactant | (S)-2-Amino-4,4-difluoro-heptanoic acid methyl ester hydrochloride | 0.025 mol, 5.79 g | Cl.COC([C@H](CC(CCC)(F)F)N)=O
reactant | Homomorpholine hydrochloride | 26.25 mmol, 3.61 g | C1CNCCOC1.Cl
reactant | triethyl amine | 12.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 130 mL | C(C)#N | C2H3N
product | (S)-4,4-Difluoro-2-[(perhydro-1,4-oxazepine4-carbonyl)-amino]-heptanoic acid methyl ester | 4.8 g | COC([C@H](CC(CCC)(F)F)NC(=O)N1CCOCCC1)=O | C14H24F2N2O4
